* eeschema netlist version 1.1 (spice format) creation date: tuesday 14 may 2013 02:41:09 pm ist
.include diode.lib

v1  1 0 dc 5
* Plotting option vplot8_1
V_u2 4 0 0
r2  3 2 20m
v2  2 4 65m
r1  1 5 1000
d1  5 3 diode

.dc  v1 0e-00 5e-00 1e-00

* Control Statements 
.control
run
plot v(5) 
plot i(V_u2)
.endc
.end
